US04031232
1-Methyl-2-(4-nitrophenoxymethyl)-5-nitro-imidazole
m.p. 150° C, from 15.7 g (0.1 mole) of 1-methyl-2-hydroxymethyl-5-nitro-imidazole (MHNI) and 14.1 g (0.1 mole) of 4-nitrofluorobenzene.

reactant | 1-methyl-2-hydroxymethyl-5-nitro-imidazole | 0.1 mole, 15.7 g | CN1C(=NC=C1[N+](=O)[O-])CO | C5H7N3O3
reactant | 4-nitrofluorobenzene | 0.1 mole, 14.1 g | [N+](=O)([O-])C1=CC=C(C=C1)F | C6H4FNO2
product | 1-Methyl-2-(4-nitrophenoxymethyl)-5-nitro-imidazole | CN1C(=NC=C1[N+](=O)[O-])COC1=CC=C(C=C1)[N+](=O)[O-] | C11H10N4O5
